US07208500B2
Intermediate 66b: 2-(4-Methoxy-phenyl)-N-methyl-acrylamide
To a solution of 2-(4-methoxy-phenyl)-acrylic acid ethyl ester (66a) (1.0 g, 4.85 mmol) in 15 mL of THF was added dropwise 0.33 N KOH (33.5 mL) at 0° C. The mixture was stirred at ambient temperature for three hours, concentrated in vacuo, re-suspended in water, and extracted with EtOAc three times. The combined organic layer was dried over Na2SO4, and concentrated to give 0.86 g acid as a white solid. It was dissolved in 8 mL of DMF, and to this solution was added 2.0 M methylamine (9.7 mL, 19.40 mmol) and Et3N (2.70 mL, 19.40 mmol), follow by HATU (2.75 g, 7.23 mmol). The resulting mixture was stirred at room temperature for 30 minutes. Sat. NaHCO3 was added, the mixture was extracted with EtOAc. The organic phase was dried over Na2SO4, concentrated, and purified by flash column chromatography eluting with EtOAc:CH2Cl2:MeOH (1:1:0.01) to provide 0.68 g off-white solid as the intermediate 66b. 1H NMR (300 MHz, CD3OD) δ 7.23 (d, 2H, J=8.86 Hz), 6.81 (d, 2H, J=8.85 Hz), 5.52 (s, 2H), 3.81 (s, 3H), 2.72 (d, 3H, J=3.77 Hz). LCMS (ESI+) [M+H]/z Calc'd 192, found 192.

reactant | methylamine | 19.40 mmol, 2.0 M, 9.7 mL | CN | CH5N
reactant | Et3N | 19.40 mmol, 2.70 mL | CCN(CC)CC | C6H15N
reactant | HATU | 7.23 mmol, 2.75 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-(4-Methoxy-phenyl)-N-methyl-acrylamide | 0.68 g | COC1=CC=C(C=C1)C(C(=O)NC)=C | C11H13NO2
